US06294529B1
Step 1:3-Nitrophenethyl azide
To a solution of 3-nitrophenethyl alcohol (2 g, 11.97 mmol), Et3N (3.0 mL, 20.8 mmol) in CH2Cl2 (40 mL) is added methanesulfonyl chloride (1.0 mL, 12.9 mmol) at 0° C. After stirring for 0.5 hr, more CH2Cl2 is added. The solution is washed with water and brine, dried over Na2SO4 and concentrated. The residue is dissolved in DMF (30 mL), sodium azide (0.8 g,12.3 mmol), lithium chloride (0.53 g, 12.5 mmol) and catalytic amount of sodium iodide are added. The mixture is stirred at room temperature overnight. Most of DMF is then removed under vacuum and the residue is washed with water and brine, dried over Na2SO4 and concentrated. The residue is chromatographed over silica gel (eluent: hexane:ethyl acetate v/v 4:1) to give a pale yellow oil (1.8 g) as desired product.

reactant | 3-nitrophenethyl alcohol | 11.97 mmol, 2 g | [N+](=O)([O-])C=1C=C(CCO)C=CC1 | C8H9NO3
reactant | Et3N | 20.8 mmol, 3.0 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 12.9 mmol, 1.0 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium azide | 12.3 mmol, 0.8 g | [N-]=[N+]=[N-].[Na+]
reactant | lithium chloride | 12.5 mmol, 0.53 g | [Cl-].[Li+]
reactant | sodium iodide | [I-].[Na+]
solvent | CH2Cl2 | 40 mL | C(Cl)Cl | CH2Cl2
product | 3-Nitrophenethyl azide | 1.8 g | [N+](=O)([O-])C=1C=C(CCN=[N+]=[N-])C=CC1 | C8H8N4O2
